US07544672B2
Step 2. 2,2-Dimethyl-N-(4-oxo-4,7-dihydro-3H-pyrrolo[2,3-d]pyrimidin-2-yl)-propionamide
A solution of 2-amino-3,7-dihydro-pyrrolo[2,3-d]pyrimidin-4-one (186 g, 1.23 mol) in pyridine (2 L) was treated with trimethylacetyl chloride (475 g, 3.94 mol, 485 mL, 3.2 eq) at 90° C. for 2 h, to give a mixture of N(2)-monoacylated and N(2), N(7)-bisacylated material. The solvent was evaporated and the residue was taken up in aqueous ammonia (37% NH3, 310 mL) and MeOH (2 L), and stirred at rt for 30 min, to selectively cleave the N(7)-pivaloyl group. The solid was collected by filtration, washed with water (500 mL×5), and dried on high vacuum to give the title compound as a solid (193 g). Concentration of the mother liquor provided additional solid material, which was collected, washed with water (50 mL×5), and dried (77 g). The combined yield was 93% (HPLC purity 98.6% ). tR: 4.57 min. 1H-NMR (DMSO-d6) δ 12.00, (br. s, 1H), 7.40 (br. s, 1H), 6.96 (q, 1H), 6.40 (q, 1H), 1.24 (s, 9H).

reactant | 2-amino-3,7-dihydro-pyrrolo[2,3-d]pyrimidin-4-one | 1.23 mol, 186 g | NC=1NC(C2=C(N1)NC=C2)=O | C6H6N4O
reactant | trimethylacetyl chloride | 3.94 mol, 485 mL, 475 g, 3.2 eq | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | pyridine | 2 L | N1=CC=CC=C1 | C5H5N
product | 2,2-Dimethyl-N-(4-oxo-4,7-dihydro-3H-pyrrolo[2,3-d]pyrimidin-2-yl)-propionamide | 193 g, yield was 93% | CC(C(=O)NC=1NC(C2=C(N1)NC=C2)=O)(C)C | C11H14N4O2
